US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and isonicotinic acid, the title compound was prepared. MS: m/e=386(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=NC=C2)=O)OC | C19H19N3O4S
